US07683185B2
(E)-3-(3-(4-Dimethylamino-phenylsulfanyl)-phenyl)-acrylic acid ethyl ester (51a).
To a solution of (3-(4-dimethylamino-phenylsulfanyl)-phenyl)-methanol (255 mg, 0.98 mmol) and triethylamine (1.3 mL, 9.2 mmol) in dimethyl sulfoxide (5 mL) was added a solution of pyridine-sulphur trioxide (469 mg, 2.95 mmol) in dimethyl sulfoxide (5 mL). The mixture was stirred for 1 hour at room temperature and water (20 mL) and ethyl acetate (40 mL) were added. The organic layer was washed with water (3×10 mL) and brine (20 mL), dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give a colourless oil. This oil was dissolved in dichloromethane (10 mL) and (triphenylphosphoranylidene)-acetic acid ethyl ester (700 mg, 2.0 mmol) was added. The mixture was stirred at reflux for 3 hours and concentrated under reduced pressure. The residue was purified by flash chromatography (20:80:1 ethyl acetate:40-60° C. petroleum ether:triethylamine) to give the title compound as a colourless oil (240 mg, 74%).

reactant | (3-(4-dimethylamino-phenylsulfanyl)-phenyl)-methanol | 0.98 mmol, 255 mg | CN(C1=CC=C(C=C1)SC=1C=C(C=CC1)CO)C | C15H17NOS
reactant | triethylamine | 9.2 mmol, 1.3 mL | C(C)N(CC)CC | C6H15N
reactant | pyridine sulphur trioxide | 2.95 mmol, 469 mg | N1=CC=CC=C1.S(=O)(=O)=O
reactant | (triphenylphosphoranylidene)-acetic acid ethyl ester | 2.0 mmol, 700 mg | C(C)OC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H21O2P
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
product | (E)-3-(3-(4-Dimethylamino-phenylsulfanyl)-phenyl)-acrylic acid ethyl ester | 240 mg, 74% | C(C)OC(\C=C\C1=CC(=CC=C1)SC1=CC=C(C=C1)N(C)C)=O | C19H21NO2S
